US06812237B2
Solid sodium hydroxide (22.2 g, 0.554 mol) is added to a stirred solution of 2-cyano-4[{(tert-butyldimethylsilyl)oxy}methyl]pyridine in 300 mL EtOH and 50 mL water. The reaction mixture is then heated at reflux for 15 h. After cooling to room temperature, the solution is adjusted to pH 1-2 by addition of 6N HCl, then the mixture is concentrated to dryness in vacuo. The solid residue is washed with ethanol, then dried in vacuo to give crude 4-(hydroxymethyl)pyridine-2-carboxylic acid hydrochloride as a tan solid. The crude salt is disolved in 280 mL DMF, then 18.2 g (0.131 mol) of potassium carbonate is added, followed by 4.8 mL (0.0554 mol) of allyl bromide. The resulting mixture is allowed to stir at room temperature for 48 h, then concentrated under high vacuum. This residue is taken up in ethyl acetate and washed three times with saturated LiCl and finally with brine. The aqueous washings are combined and extracted with CH2Cl2. The combined organic layers are dried over Na2SO4 and concentrated. Silica gel chromatography eluting with 97:3 CH2Cl2-MeOH gives allyl 4-(hydroxymethyl)pyridine-2-carboxylate as a dark oil.

reactant | sodium hydroxide | 0.554 mol, 22.2 g | [OH-].[Na+]
reactant | 2-cyano-4[{(tert-butyldimethylsilyl)oxy}methyl]pyridine | C(#N)C1=NC=CC(=C1)CO[Si](C)(C)C(C)(C)C | C13H20N2OSi
reactant | HCl | 6N | Cl | ClH
reactant | water | 50 mL | O | H2O
solvent | EtOH | 300 mL | CCO | C2H6O
product | 4-(hydroxymethyl)pyridine-2-carboxylic acid hydrochloride | Cl.OCC1=CC(=NC=C1)C(=O)O | InChI=1S/C7H7NO3.ClH/c9-4-5-1-2-8-6(3-5)7(10)11;/h1-3,9H,4H2,(H,10,11);1H
